US08309562B2
6-Methoxy-N4-(4-methoxy-phenyl)-N2,N2,N4-trimethyl-quinazoline-2,4-diamine
A mixture of (2-chloro-6-methoxy-quinazoline-4-yl)-(4-methoxy-phenyl)-methyl-amine (0.12 g, 0.36 mmol), 2.0M dimethylamine in methanol (1.44 mL, 2.91 mmol) in sealed tube was stirred at 70-80° C. overnight. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in ethyl acetate and washed with sodium bicarbonate, brine, dried over anhydrous MgSO4, filtered and concentrated to give 90 mg of the titled compound (75% yield). 1H NMR (DMSO): δ 7.28 (d, 1H), 7.20-7.18 (dd, 2H), 7.06-7.00 (d, 1H), 7.00-6.98 (dd, 2H), 6.2 (d, 1H), 3.7(s, 3H), 3.4 (s, 3H), 3.22 (s, 3H), 3.18 (s, 6H). LC\MS: 339, (M+1).

reactant | (2-chloro-6-methoxy-quinazoline-4-yl)-(4-methoxy-phenyl)-methyl-amine | 0.36 mmol, 0.12 g | ClC1=NC2=CC=C(C=C2C(=N1)N(C)C1=CC=C(C=C1)OC)OC | C17H16ClN3O2
reactant | dimethylamine | 2.0M | CNC | C2H7N
reactant | methanol | 2.91 mmol, 1.44 mL | CO | CH4O
product | 6-Methoxy-N4-(4-methoxy-phenyl)-N2,N2,N4-trimethyl-quinazoline-2,4-diamine | 90 mg, 75% yield | COC=1C=C2C(=NC(=NC2=CC1)N(C)C)N(C)C1=CC=C(C=C1)OC | C19H22N4O2
